US04593118
Five grams of ethyl 2-acetamido-3-aminobutyrate were dispersed in 10 ml of cold methanol, after which 1.51 g of potassium hydroxide in 15 ml of methanol were added. The mixture was stirred in an ice bath and then allowed to warm to 23° C. over a period of 18 hours. The solvent was removed at reduced pressure, and the residue was dissolved in a minimum of warm water and adjusted to a pH of 6.5 with hydrochloric acid. Upon cooling, crystals of 2-acetamido-3-aminobutyric acid were formed in a 95% yield.

reactant | ethyl 2-acetamido-3-aminobutyrate | Five grams | C(C)(=O)NC(C(=O)OCC)C(C)N | C8H16N2O3
reactant | potassium hydroxide | 1.51 g | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 2-acetamido-3-aminobutyric acid | 95% yield | C(C)(=O)NC(C(=O)O)C(C)N | C6H12N2O3
